US05567819
A stainless steel vessel was inetted with nitrogen and connected via its vent to a mobile scrubber unit. The scrubber was charged with very dilute hydrochloric acid. The vessel was charged with 96% ethanol (40 kg) followed by 1-(4-nitrobenzyl)-1,2,4-triazole (9.62 kg). The vessel was re-inerted with nitrogen and a slurry of 10% Pd/C catalyst (Engelhardt type 4505, 192 g) in water added to the stirred batch via the addition funnel. The vessel, funnel and line were rinsed with water. Total water used was 16 l. The batch was well stirred and heated to 60° C. A solution of ammonium formate (13.95 kg) in water (30 l) was metered into the reactor over 1 hour. Batch temperature settled at 65° C. At the end of this addition, the batch was heated at 70°-75° C. for a further 1 hour. Tlc showed complete reaction and single spot formation. The batch was cooled to 60° C. and passed through a pressure filter coated with hyflo (1.5 kg) to another vessel. The reaction vessel, filter and lines were washed with water (10 l). A further batch of 1-(4-nitrobenzyl)-1,2,4-triazole (9.585 kg) was then reduced in the same way. This batch was filtered and added to the previously filtered batch together with a 10 l water wash of the vessel, filter and lines. The combined, filtered batch (215 l) was distilled at atmospheric pressure until 70 l of distillate had been removed (vapour temperature was 83° C. at this point). Water (30 l) was added and the distillation continued until the vapour temperature reached 95° C. (106 l total distillate). The pressure in the distillation vessel was then reduced to allow distillation at a boiling point of ≤70° C. A further 70 l of distillate was removed to leave a residual volume of 69 l. The batch had crystallised at this point and the slurry was cooled to ≤20° C. over 1 hour. The batch was gently stirred and aged overnight. The batch was cooled to 0° C., aged for 1 hour and then filtered. The solid was washed with water at 0°-5° C. (10 l). The batch was dried overnight at 50° C., in vacuo, with a nitrogen bleed to give 1-(4-aminobenzyl)-1,2,4-triazole in 96% yield.

reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 40 kg | C(C)O | C2H6O
reactant | 1-(4-nitrobenzyl)-1,2,4-triazole | 9.62 kg | [N+](=O)([O-])C1=CC=C(CN2N=CN=C2)C=C1 | C9H8N4O2
catalyst | Pd/C | 192 g | [Pd] | Pd
solvent | water | O | H2O
product | 1-(4-aminobenzyl)-1,2,4-triazole | 96% yield | NC1=CC=C(CN2N=CN=C2)C=C1 | C9H10N4
